US07196102B2
Step 4) (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine:
The 1-quinolin-4-yl-ethylamine (510 mg, 3 mmol) and 6,4′-dimethoxy-biphenyl-3-carbaldehyde (242 mg, 1.0 mmol) were stirred with acetic acid (300 mg, J. T. Baker) in methyl alcohol (15 mL0 at room temperature for 4 h. To the reaction solution was added sodium cyanoborohydride (1.0 g, 16 mmol, Aldrich) at 0° C. The mixture was stirred under nitrogen at room temperature for overnight then the reaction was cooled at ice bath and quenched with saturated aqueous sodium bicarbonate (30 mL). The methyl alcohol was removed from the mixture via vacuo. The residue was extracted by ethyl acetate (30 mL×4). The combined organic phases were dried over anhydrous magnesium sulfate and concentrated via vacuo. The title compound was purified by column chromatography (silica gel, ethyl acetate) in form as white solid in 72% yield (287 mg, 0.72 mmol).

reactant | 1-quinolin-4-yl-ethylamine | 3 mmol, 510 mg | N1=CC=C(C2=CC=CC=C12)C(C)N | C11H12N2
reactant | 6,4′-dimethoxy-biphenyl-3-carbaldehyde | 1.0 mmol, 242 mg | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)C=O | C15H14O3
reactant | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | methyl alcohol | CO | CH4O
product | (6,4′-Dimethoxy-biphenyl-3-ylmethyl)-(1-quinolin-4-yl-ethyl)-amine | 72% yield | COC1=CC=C(C=C1C1=CC=C(C=C1)OC)CNC(C)C1=CC=NC2=CC=CC=C12 | C26H26N2O2
